US07572808B2
Preparation of 2-((2-amino-6-(trifluoromethyl)pyridin-3-yl)methyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
The title compound (6 mg, 33% yield) as a yellow powder was prepared from 2-((2-chloro-6-(trifluoromethyl)pyridin-3-yl)methyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (22 mg, 0.043 mmol), and 28% aqueous ammonium hydroxide solution (0.5 mL) according to the procedures described for 7-(4-chlorophenyl)-2-((2-(methylamino)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one. HPLC/MS: retention time=2.87 min, [M+H]+=497.2.

reactant | 2-((2-chloro-6-(trifluoromethyl)pyridin-3-yl)methyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.043 mmol, 22 mg | ClC1=NC(=CC=C1CN1N=C2N(C=CC(=C2C2=CC=NC=C2)C2=CC=C(C=C2)Cl)C1=O)C(F)(F)F | C24H14Cl2F3N5O
reactant | ammonium hydroxide | 0.5 mL | [OH-].[NH4+]
reactant | 7-(4-chlorophenyl)-2-((2-(methylamino)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)NC)=O)C2=CC=NC=C2 | C25H18ClF3N6O
product | 2-((2-amino-6-(trifluoromethyl)pyridin-3-yl)methyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 6 mg, 33% yield | NC1=NC(=CC=C1CN1N=C2N(C=CC(=C2C2=CC=NC=C2)C2=CC=C(C=C2)Cl)C1=O)C(F)(F)F | C24H16ClF3N6O
